US04620938
A solution of 32.6 g of p-(trans-4-(trans-4-propyl-cyclohexyl)-cyclohexyl)-acetophenone in 320 ml of tetrahydrofuran is hydrogenated over 5 g of 5% Pd-on-C at 40° and under normal pressure until the uptake of H2 ceases. The mixture is filtered and the filtrate is evaporated to give trans-1-p-ethylphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane.

reactant | p-(trans-4-(trans-4-propyl-cyclohexyl)-cyclohexyl)-acetophenone | 32.6 g | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C(C)=O | C23H34O
solvent | tetrahydrofuran | 320 ml | O1CCCC1 | C4H8O
catalyst | Pd | 5 g | [Pd] | Pd
product | trans-1-p-ethylphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane | C(C)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C23H36
